US09079866B2
5-[3-Fluoro-2′-(piperidin-1-ylsulfonyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 42 using 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine and (2-(piperidin-1-ylsulfonyl)phenyl)boronic acid. MS (ESI): mass calcd. for C21H21FN4O2S, 412.14; m/z found, 413.3 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.40-8.30 (m, 2H), 8.10-8.06 (m, 1H), 7.98 (m, 1H), 7.79-7.73 (m, 1H), 7.71-7.64 (m, 1H), 7.62-7.56 (m, 1H), 7.43-7.39 (m, 1H), 7.34-7.28 (m, 1H), 2.86 (d, J=5.3, 4H), 1.50-1.38 (m, 6H).

reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
reactant | (2-(piperidin-1-ylsulfonyl)phenyl)boronic acid | N1(CCCCC1)S(=O)(=O)C1=C(C=CC=C1)B(O)O | C11H16BNO4S
product | 5-[3-Fluoro-2′-(piperidin-1-ylsulfonyl)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)N1CCCCC1 | C21H21FN4O2S
